US04242510
A solution of ethyl 4-bromo-2-hydroxyimino-3-oxovalerate (50 g.) in chloroform (100 ml) was added dropwise to a stirred solution of 2-mercaptoethanol (20.5 g.) and triethylamine (26.6 g.) in chloroform (100 ml) at room temperature over 1.5 hours, and stirred at the same temperature for 2 hours. After removing chloroform from the resultant solution in vacuo, water (600 ml) and ethyl acetate (600 ml) were added to the residue and adjusted to pH 1.0 with conc.hydrochloric acid. The ethyl acetate layer was separated, washed with water (200 ml), dried over magnesium sulfate and then concentrated in vacuo to give ethyl 4-(2-hydroxyethylthio)-2-hydroxyimino-3-oxovalerate (38.8 g.).

reactant | ethyl 4-bromo-2-hydroxyimino-3-oxovalerate | 50 g | BrC(C(C(C(=O)OCC)=NO)=O)C | C7H10BrNO4
reactant | 2-mercaptoethanol | 20.5 g | SCCO | C2H6OS
reactant | triethylamine | 26.6 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 4-(2-hydroxyethylthio)-2-hydroxyimino-3-oxovalerate | 38.8 g | OCCSC(C(C(C(=O)OCC)=NO)=O)C | C9H15NO5S
